US05990105
0.20 g (0.00051 mol) of 4-(2,6-dibromopyridine-4-sulphonyl)-phenylamine was dissolved in 10 ml dioxane and treated with 3.8 ml of 3-amino-1-propanol. The mixture was stirred at room temperature for 18 hrs., the solvent was removed and the residue was chromatographed on silica gel with ethyl acetate/hexane 1:1 and finally with pure ethyl acetate. There was obtained 0.158 g (80%) of 3-[3-(4-aminobenzenesulphonyl)-5-bromophenylamino]-propan-1-ol as a brownish oil. MS (ISP): me/e=388, 386 (C14H17BrN3O3S+).

reactant | 4-(2,6-dibromopyridine-4-sulphonyl)-phenylamine | 0.00051 mol, 0.20 g | BrC1=NC(=CC(=C1)S(=O)(=O)C1=CC=C(C=C1)N)Br | C11H8Br2N2O2S
reactant | 3-amino-1-propanol | 3.8 ml | NCCCO | C3H9NO
reactant | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 3-[3-(4-aminobenzenesulphonyl)-5-bromophenylamino]-propan-1-ol | 0.158 g, 80% | NC1=CC=C(C=C1)S(=O)(=O)C=1C=C(C=C(C1)Br)NCCCO | C15H17BrN2O3S
